US05239080
To a solution of 3-[4-(4-chlorophenyl)-2-oxazolyl] propanol (0.5 g) in pyridine (2 ml) was added benzoyl chloride (0.29 ml), followed by stirring for an hour at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed successively with an aqueous sodium hydrogen carbonate solution 2N-HCl and water, dried over MgSO4, and distilled to remove the solvent. The precipitated crystals were collected by filtration to give 3-[4-(4-chlorophenyl)-2-oxazolyl]propyl benzoate (0.687 g, 96%). Recrystallization from ether-hexane gave colorless prism crystals of mp 47°-47.5° C.

reactant | 3-[4-(4-chlorophenyl)-2-oxazolyl] propanol | 0.5 g | ClC1=CC=C(C=C1)C=1N=C(OC1)CCCO | C12H12ClNO2
reactant | benzoyl chloride | 0.29 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-(4-chlorophenyl)-2-oxazolyl]propyl benzoate | 0.687 g, 96% | C(C1=CC=CC=C1)(=O)OCCCC=1OC=C(N1)C1=CC=C(C=C1)Cl | C19H16ClNO3
